US05061712
a) 1-Benzoyl-trans-3-amino-4-methylthio-pyrrolidine
41.5 g (0.24 mol) of 1-benzoyl-2,5-dihydropyrrole are initially introduced into 240 ml of methylene chloride, and 24.8 g (0.3 mol) of methanesulphonyl chloride are added dropwise at 0° C. The mixture is subsequently stirred at room temperature for 16 hours, the solvent is then stripped off under 8 mbar and the residue is taken up in 240 ml of tetrahydrofuran. After addition of 65 g of 25% strength ammonia solution, the mixture is heated at 80° C. in an autoclave for 10 hours. It is then poured into 5 times the amount of water, the pH is brought to 10-11 with sodium carbonate, the mixture is extracted with methylene chloride and the extract is dried over sodium sulphate and concentrated. The crude product (50 g) is chromatographed on silica gel (mobile phase initially ethanol:ethyl acetate 1:3, then ethanol; Rf value: 0.34 ethanol). Yield: 33.5 g (59% of theory).

reactant | 1-benzoyl-2,5-dihydropyrrole | 0.24 mol, 41.5 g | C(C1=CC=CC=C1)(=O)N1CC=CC1 | C11H11NO
reactant | methanesulphonyl chloride | 0.3 mol, 24.8 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | ammonia | N | H3N
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | tetrahydrofuran | 240 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
solvent | methylene chloride | 240 ml | C(Cl)Cl | CH2Cl2
product | 1-Benzoyl-trans-3-amino-4-methylthio-pyrrolidine | C(C1=CC=CC=C1)(=O)N1C[C@H]([C@@H](C1)SC)N | C12H16N2OS
